US05019578
5-Bromo-2-(isobutyramido)pyrimidine
A suspension of 20 g of 2-amino-5-bromopyrimidine [Chem. Abstr., 54, 11037 (1960)] and 14.78 g of 4-dimethylaminopyridine in 200 ml of pyridine was treated with 80 ml of isobutyric anhydride. The reaction mixture was then heated at 100° C. for 23 hours. The mixture was cooled and then diluted with 1500 ml of water. The mixture was thoroughly mixed for 30 minutes and then extracted with ether (3×300 ml). The ether extracts were washed with saturated sodium chloride solution (3×300 ml) and then dried over anhydrous magnesium sulfate. Concentration of the organic solution afforded 22.39 g of crude product which upon recrystallization from benzene (50 ml) afforded 14.5 g of pure product, mp 145°-148° C.

reactant | 2-amino-5-bromopyrimidine | 20 g | NC1=NC=C(C=N1)Br | C4H4BrN3
reactant | isobutyric anhydride | 80 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | 4-dimethylaminopyridine | 14.78 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 1500 ml | O | H2O
product | 5-Bromo-2-(isobutyramido)pyrimidine | 14.5 g | BrC=1C=NC(=NC1)NC(C(C)C)=O | C8H10BrN3O
